US07968570B2
4-Bromo-2-chloro-6-methylphenylamine hydrobromide salt
2-Chloro-6-methyl-phenylamine (5.00 g, 35.3 mmol) was dissolved in methanol (15 mL) and acetic acid was added (5 mL). The solution was chilled in an ice bath and a solution of bromine (1.8 mL) in acetic acid (15 mL) was added dropwise. After complete addition MeOH (5 mL) was added to dissolve the precipitated solid. The solvents were removed under reduced pressure and the residue was triturated with hexanes to provide the title compound as an off white solid (10.49 g, 99%). 1H NMR (300 MHz, MeOD): δ 7.42 (s, 1H), 7.28 (s, 1H), 2.42 (s, 3H).

reactant | 2-Chloro-6-methyl-phenylamine | 35.3 mmol, 5.00 g | ClC1=C(C(=CC=C1)C)N | C7H8ClN
reactant | bromine | 1.8 mL | BrBr | Br2
solvent | methanol | 15 mL | CO | CH4O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 5 mL | CO | CH4O
product | 4-Bromo-2-chloro-6-methylphenylamine hydrobromide salt | Br.BrC1=CC(=C(C(=C1)C)N)Cl | InChI=1S/C7H7BrClN.BrH/c1-4-2-5(8)3-6(9)7(4)10;/h2-3H,10H2,1H3;1H
